US09233962B2
Intermediate 75: N2-[(1S)-1-Methylbutyl]-9-(tetrahydro-2H-pyran-2-yl)-9H-purine-2,6-diamine
Prepared similarly to Intermediate 70 from 2-fluoro-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine and (2S)-2-pentanamine.

reactant | 2-fluoro-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | FC1=NC(=C2N=CN(C2=N1)C1OCCCC1)N | C10H12FN5O
reactant | (2S)-2-pentanamine | C[C@@H](CCC)N | C5H13N
product | N2-[(1S)-1-Methylbutyl]-9-(tetrahydro-2H-pyran-2-yl)-9H-purine-2,6-diamine | C[C@@H](CCC)NC1=NC(=C2N=CN(C2=N1)C1OCCCC1)N | C15H24N6O
